US07871998B2
(2R)-2-[(N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]-4-(4-hydroxyphenyl)butanoic acid
N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine (15.2 mg, 0.028 mmol) and N-methylmorpholine (15 μl, 0.14 mmol) were dissolved in DMF (2 ml). TBTU (10.5 mg, 0.033 mmol) was added and after 20 minutes (2R)-2-amino-4-(4-hydroxyphenyl)butanoic acid hydrobromide (9.2 mg, 0.033 mmol) was added. The reaction mixture was stirred for 1.5 h. The formation of the intermediate acid was confirmed. M/z: 718.3. MeOH (2 ml) and sodium borohydride (10.7 mg, 0.28 mmol) were added and the mixture was stirred for 20 minutes. Ammonium acetate (34 mg) was added and the methanol was removed under reduced pressure. The residue was purified with preparative HPLC on a C8 column. A gradient from 20% to 45% MeCN in 0.1M ammonium acetate buffer was used as eluent. After lyophilisation, the title compound was obtained as a white solid (9.6 mg, 47%). H-NMR (400 MHz, DMSO-d6): 1.75-1.86 (m, 1H), 1.89-1.98 (m, 1H), 2.41 (t, 2H), 2.81-2.98 (m, 2H), 3.78 (d, 2H), 3.97-4.05 (m, 1H), 4.27 (d, 0.5M), 4.31 (d, 0.5H), 4.53 (s, 2H), 4.67-4.76 (m, 1H), 5.02 (d, 0.5H), 5.05 (d, 0.5H), 6.62 (d, 2H), 6.91 (d, 2H), 6.98 (d, 2H), 7.05-7.16 (m, 4H), 7.20-7.25 (m, 2H), 7.30-7.39 (m, 4H), 7.87-7.97 (m, 1H), 8.30 (t, 1H), 8.91-9.30 (br, 1H). M/z: 718.0 (M−H).

reactant | N-{[4-((2R,3R)-1-(4-Fluorophenyl)-3-{[2-(4-fluorophenyl)-2-oxoethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycine | 0.028 mmol, 15.2 mg | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(=O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)O)C=C1 | C27H22F2N2O6S
reactant | N-methylmorpholine | 0.14 mmol, 15 μl | CN1CCOCC1 | C5H11NO
reactant | TBTU | 0.033 mmol, 10.5 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | (2R)-2-amino-4-(4-hydroxyphenyl)butanoic acid hydrobromide | 0.033 mmol, 9.2 mg | Br.N[C@@H](C(=O)O)CCC1=CC=C(C=C1)O
reactant | sodium borohydride | 0.28 mmol, 10.7 mg | [BH4-].[Na+]
reactant | Ammonium acetate | 34 mg | C(C)(=O)[O-].[NH4+]
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | MeOH | 2 ml | CO | CH4O
product | (2R)-2-[(N-{[4-((2R,3R)-1-(4-fluorophenyl)-3-{[2-(4-fluorophenyl)-2-hydroxyethyl]thio}-4-oxoazetidin-2-yl)phenoxy]acetyl}glycyl)amino]-4-(4-hydroxyphenyl)butanoic acid | FC1=CC=C(C=C1)N1[C@@H]([C@H](C1=O)SCC(O)C1=CC=C(C=C1)F)C1=CC=C(OCC(=O)NCC(=O)N[C@@H](C(=O)O)CCC2=CC=C(C=C2)O)C=C1 | C37H35F2N3O8S
